US04647687
133 g of 1,2-dichloro-2-cyano-vinyl 2,2-dichloro-2-cyano-ethyl sulphide were dissolved in 350 ml of tetrahydrofuran, and 53.6 g of triethylamine were added dropwise at 5° to 10° C. The triethylamine hydrochloride which had precipitated out was filtered off with suction, the filtrate was concentrated and the residue was distilled (boiling point 120° to 145° C./2.5 mbar). 66.3 g of 1,2-dichloro-2-cyano-vinyl 2-chloro-2-cyano-vinyl sulphide were obtained as an oil, 1H-NMR: δ=7.1-7.4. A pure stereoisomer of melting point 58° to 60° C. crystallized out, 1H-NMR: δ=7.1.

reactant | 1,2-dichloro-2-cyano-vinyl 2,2-dichloro-2-cyano-ethyl sulphide | 133 g | ClC(CSC(=C(C#N)Cl)Cl)(C#N)Cl | C6H2Cl4N2S
reactant | triethylamine | 53.6 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 1,2-dichloro-2-cyano-vinyl 2-chloro-2-cyano-vinyl sulphide | 66.3 g | ClC(=CSC(=C(C#N)Cl)Cl)C#N | C6HCl3N2S
